US06156774
o-Phenoxybenzyl Alcohol
To a cooled (0°), stirred, solution of o-phenoxybenzoic acid (2.14 g, 10.0 mmol) in dry tetrahydrofuran (20 ml) under argon was added lithium aluminium hydride (0.19 g, 5 mmol) added in portions over 10 minutes. After a further 1 hour, water was added cautiously until effervescence ceased. The reaction mixture was partitioned between ethyl acetate and water and filtered. The organic layer was washed with saturated sodium hydrogen carbonate solution followed by water and dried over MgSO4. Evaporation of solvent gave crude product (1.59 g, 80%). δH (CDCl3) 2.01 (1H, br t), 4.77 (2H, d, J 4.9 Hz), 6.9-7.5 (9H, m) ppm

reactant | o-phenoxybenzoic acid | 10.0 mmol, 2.14 g | O(C1=CC=CC=C1)C1=C(C(=O)O)C=CC=C1 | C13H10O3
reactant | lithium aluminium hydride | 5 mmol, 0.19 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | o-Phenoxybenzyl Alcohol | 1.59 g, 80% | O(C1=CC=CC=C1)C1=C(CO)C=CC=C1 | C13H12O2
